US05721264
N-[1-(2-phenylethyl)-5-chloro-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine
0.24 ml of 1.6M n-butyl lithium/hexane solution were added to THF solution (10 ml) of 231 mg of N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine, while cooling with dry ice-acetone. After stirred for 30 minutes, 49 mg of N-chlorosuccinimide were added thereto and stirred for 30 minutes. 10 ml of aqueous ammonium chloride solution were added to the reaction solution, THF was distilled off under reduced pressure, and the resultant was extracted with 50 ml of dichloromethane. After dried over magnesium sulfate, the resultant was subjected to silica gel column chromatography (n-hexane-ethyl acetate=5:1) to obtain 159 mg of the intended compound as a pale yellow, amorphous solid.

reactant | n-butyl lithium hexane | 1.6M, 0.24 ml | C(CCC)[Li].CCCCCC
reactant | N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 231 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46BrN7O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | N-chlorosuccinimide | 49 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[1-(2-phenylethyl)-5-chloro-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 159 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Cl)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46ClN7O2
